US05338843
F. 7-Isocyano-4Methyl Coumarin
A three neck round bottom flask fitted with an argon inlet, an addition funnel with rubber septum, and a dry ice condenser attached to a sodium hydroxide scrubber, was heat dried while purging with argon for 10 min, and cooled to ambient temperature under argon. The apparatus was charged with 2.0g of 7-amino-4-methyl coumarin (11.4mMol), 100mL p-dioxane via an oven dried syringe followed by 15mL 20% phosgene in toluene (28.95 mMol). The mixture was refluxed strongly for 2 hr, 15mL of 20% phosgene in toluene was added; refluxed an additional 6 hr, and cooled to ambient temperature. The dry ice was allowed to evaporate overnight under a stream of argon which purged the excess phosgene from the system. The toluene and p-dioxane were removed under reduced pressure at 40° C. resulting in a yellow solid. The pure product was obtained by the addition of 100mL of chloroform and stirring for 15 min. to dissolve the isocyanate. Followed by filtration (to remove AMC HC1), and removal of solvent under reduced pressure. The solid was stored under reduced pressure overnight.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 7-amino-4-methyl coumarin | 11.4mMol, 2.0g | NC1=CC=C2C(=CC(OC2=C1)=O)C | C10H9NO2
reactant | phosgene | 15mL | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 15mL | C(=O)(Cl)Cl | CCl2O
reactant | dry ice | C(=O)=O | CO2
reactant | isocyanate | [N-]=C=O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 28.95 mMol | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 100mL | C(Cl)(Cl)Cl | CHCl3
solvent | p-dioxane | 100mL | O1CCOCC1 | C4H8O2
product | 7-Isocyano-4Methyl Coumarin | [N+](#[C-])C1=CC=C2C(=CC(OC2=C1)=O)C | C11H7NO2
